US08669234B2
Triphosgene (1.05 g) was dissolved in DCM (17 mL) and stirred at 0° C. N′-Isopropyl-hydrazine-carboxylic acid methyl ester (1.00 g) and DIPEA (1.5 mL) were dissolved in DCM (25 mL), and mixture was added to triphosgene solution and stirred for 10 minutes. 5-(4-Bromo-phenyl)-2-pyrrolidin-2-yl-1H-imidazole (2.65 g) was added. Reaction was stirred at room temperature for 1 hour and extracted twice with water (10 mL), once with brine (10 mL), and evaporated under vacuum. The resulting oil was subjected to silica gel chromatography using a 40 g ISCO column and effluent of 0-100% ethyl acetate:hexanes. The fractions containing product were combined and the solvent was removed under vacuum, giving N′-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-N′-isopropyl-hydrazine-carboxylic acid methyl ester (533 mg, 16%).

reactant | Triphosgene | 1.05 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | N′-Isopropyl-hydrazine-carboxylic acid methyl ester | 1.00 g | COC(=O)NNC(C)C | C5H12N2O2
reactant | DIPEA | 1.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-(4-Bromo-phenyl)-2-pyrrolidin-2-yl-1H-imidazole | 2.65 g | BrC1=CC=C(C=C1)C1=CN=C(N1)C1NCCC1 | C13H14BrN3
solvent | DCM | 17 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | N′-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-N′-isopropyl-hydrazine-carboxylic acid methyl ester | 533 mg, 16% | COC(=O)NN(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br | C19H24BrN5O3
